US04202901
The solution of 16.2 g of 5-hydroxy-2-pyridinemethanol hydrochloride in 150 ml of methanol is added to a solution of 4.6 g of sodium in 250 ml of methanol, while stirring, over a period of 25 minutes. The solution is stirred for one hour and then a solution of 19.3 g of m-chlorobenzyl chloride in 50 ml of methanol is added. Then the mixture is refluxed for 19 hours, cooled, filtered and the filtrate evaporated to a residue. The residue is suspended in 100 ml of water, made basic with 20% aqueous sodium hydroxide solution and then extracted with chloroform. The chloroform extract is separated, dried over sodium sulfate, filtered and the filtrate evaporated, to yield 5-(m-chlorobenzyloxy)-2-pyridinemethanol melting at 78°-80°.

reactant | 5-hydroxy-2-pyridinemethanol hydrochloride | 16.2 g | Cl.OC=1C=CC(=NC1)CO
reactant | sodium | 4.6 g | [Na] | Na
reactant | m-chlorobenzyl chloride | 19.3 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 5-(m-chlorobenzyloxy)-2-pyridinemethanol | ClC=1C=C(COC=2C=CC(=NC2)CO)C=CC1 | C13H12ClNO2
